US04696936
3,6-Dihydroxy-4,5-dimethylacridine is prepared by the procedure of Benda, L., Ber., 45, 1787 (1912), for the preparation of 3,6-dihydroxyacridine from 3,6-diaminoacridine. In this reaction 3,6-diamino-4,5-dimethylacridine is heated in a bomb with two parts of water and one part concentrated sulfuric acid at 200° C. for 8 hours. The reaction mixture is diluted with water and the crude solid collected by filtration. This material is purified by dissolution in excess 1N sodium hydroxide, followed by treatment with charcoal and then acidification with acetic acid, giving an orange solid.

reactant | 3,6-dihydroxyacridine | OC=1C=CC2=CC3=CC=C(C=C3N=C2C1)O | C13H9NO2
reactant | 3,6-diaminoacridine | NC=1C=CC2=CC3=CC=C(C=C3N=C2C1)N | C13H11N3
reactant | 3,6-diamino-4,5-dimethylacridine | NC=1C=CC2=CC3=CC=C(C(=C3N=C2C1C)C)N | C15H15N3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
product | 3,6-Dihydroxy-4,5-dimethylacridine | OC=1C=CC2=CC3=CC=C(C(=C3N=C2C1C)C)O | C15H13NO2
